US04897479
B. 9-(1,3-Diacetoxy-2-propoxymethyl)-2-amino-6-chloropurine
A suspension of 1.44 g (8.53 mmoles) of 2-amino-6-chloropurine in 34 ml of anhydrous dimethylformamide under a nitrogen blanket was treated with 203 mg (8.53 mmoles, 340 mg of 60% dispersion in mineral oil) of sodium hydride. After twenty minutes the reaction mixture became a solution and 1.92 g (8.53 mmoles) of chloromethyl 1,3-diacetoxy-2-propyl ether in about 7 ml of anhydrous dimethylformamide was added. The reaction was monitored by t.1.c. on silica in a 90:10:1 (CHCl3 :CH3OH:H2O) system to observe disappearance of the side chain precursor. After about two hours the reaction mixture was filtered and concentrated to a cloudy oil in vacuo. The oily product had solidified upon standing and was triturated with ether. The product was isolated by filtration, washed with ether then water, again with ether, and finally dried in vacuo over P2O5 yielding 1.4 g of product. An additional 220 mg of product was obtained by filtration after the ether washes were concentrated to a small volume.

reactant | 2-amino-6-chloropurine | 8.53 mmoles, 1.44 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | sodium hydride | 8.53 mmoles, 203 mg | [H-].[Na+]
reactant | chloromethyl 1,3-diacetoxy-2-propyl ether | 8.53 mmoles, 1.92 g | C(C)(=O)OCC(COC(C)=O)OCCl | C8H13ClO5
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 34 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | about 7 ml | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
solvent | CH3OH | CO | CH4O
product | 9-(1,3-Diacetoxy-2-propoxymethyl)-2-amino-6-chloropurine | 220 mg | C(C)(=O)OCC(COC(C)=O)OCN1C2=NC(=NC(=C2N=C1)Cl)N | C13H16ClN5O5
